2186-03-18 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2186-3-17**] 08:13 PM
 MAGNETIC RESONANCE IMAGING - At [**2186-3-18**] 12:00 AM
 BLOOD CULTURED - At [**2186-3-18**] 05:20 AM
   from r ij tlcl
 BLOOD CULTURED - At [**2186-3-18**] 05:30 AM
   from r ij tlcl
 EKG - At [**2186-3-18**] 05:30 AM
 FEVER - 104.9
C - [**2186-3-18**] 06:00 AM
   Overnight Head CT neg for acute bleed and MRI evident for mild
   pachymeningeal enhancement no acute ischemic event.  Patient spiked
   fever overnight w/ rigors.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2186-3-17**] 09:30 PM
   Vancomycin - [**2186-3-17**] 10:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-3-18**] 12:00 AM
   Lorazepam (Ativan) - [**2186-3-18**] 12:15 AM
   Meperidine (Demerol) - [**2186-3-18**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-18**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 40.5
C (104.9
   Tcurrent: 40
C (104
   HR: 120 (105 - 144) bpm
   BP: 146/91(103) {124/74(86) - 155/119(112)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.2 kg (admission): 97.3 kg
    CVP: 9 (3 - 9)mmHg
   Total In:
                                                                    350 mL
                                                                  1,541 mL
   PO:
   TF:
   IVF:
                                                                    350 mL
                                                                  1,541 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    910 mL
   Urine:
                                                                    395 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                    631 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Pupils constricted sluggishly reactive, could not assess strength, tone
   reduced,saccades, RR no murmurs, CTAB, RIJ c/d/i
   Labs / Radiology
   227 K/uL
   13.3 g/dL
   159 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.7 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   40.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2186-3-17**]  09:05 PM
                             [**2186-3-18**]  04:03 AM
   WBC
   14.1
   14.1
   Hct
   41.7
   40.1
   Plt
   216
   227
   Cr
   1.4
   1.4
   TropT
   0.01
   Glucose
   169
   159
   Other labs: PT / PTT / INR:22.8/43.3/2.1, CK / CKMB /
   Troponin-T:71/2/0.01, ALT / AST:23/23, Alk Phos / T Bili:65/0.4, Lactic
   Acid:4.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
   55 yo M with PMHx sig. for L cerebellar stroke, astrocytoma, meningioms
   s/p XRT, seizure disorder, and recent PE on coumadin who presented
   initially with low-grade fever, vomiting, tachycardia, found to have a
   UTI, then become greatly febrile with seizure-like activity, now
   unresponsive w/ fevers and rigors overnight.
   .
   # Acute mental status changes:  In the setting of seizures, s/p ativan
   may be post-ictal.  His CT head is w/o evidence of acute bleed and MRI
   head w/o evidence of stroke.  There is area of mild hyperenhancement
   possibly indicative of residual malignancy.  Patient also continues to
   be febrile, with rigors overnight, tachycardia, leukocytosis concerning
   for sepsis.  His urine was remarkable for bacturia/pyuria and cx
   pending.  His CXR is not evident for obvious areas of consolidation or
   infiltrates.  Blood cultures are pending. In patient w/ AMS/fevers,
   must also consider meningitis.
   - F/u final head CT and head MRI read (discuss w/ radiology XRT induced
   necrosis and infarct of Mollaret
s triangle though no evidence of
   infarct on prelim read)
   - 24 hour EEG
   - LP to r/o bacterial/viral meningitis and evaluate cytology for
   malignancy
   - Continue keppra
   - Appreciate neuro recs
   - R/o flu
   .
   # Seizure disorder:  As above.
   - cont keppra
   - 24 hour EEG
   .
   # Sepsis/Fever/Leukocytosis:  Currently hemodynamically stable aside
   from tachycardia.  Likely source is UTI.  UCx, BCx pending.  CXR shows
   no definite infiltrate, though was volume depleted and may blossom.
   High fever is concerning for flu.  No diarrhea to suggest C. diff.
   - follow bcxs, ucx
   - r/o flu
   - LP today
   - Cover for healthcare associated organisms with vanc/cefepime,
   broadening w/ tamiflu empirically
   .
   # Sinus tachycardia:  Likely due to fever, sepsis.  BP remains stable,
   s/p aggressive IVFs.
   - control fever with acetaminophen, cooling blanket as necessary
   - monitor CVP, MAP, UOP
   - IVF boluses prn
   .
   # Acute renal failure:  Baseline Cr is 0.8.  Creatine remains elevated
   despite IVFs. FeNa 1.5 less consistent w/ pre-renal and urine sig for
   rare eos.  Ddx: pyelo (UTI/ w/ wbc casts) vs prerenal (less likely as
   not improving w/ ivfs and FeNa) vs AIN (eos seen on smear) vs ATN
   (though no muddy brown cast seen and no documented episodes of
   hypotension) vs obstruction.
   - monitor I&Os, UOP
   - trend creatinine
   - Renal US
   - renally dose all meds
   - renal consult if cr does not improve to spin urine and evaluate
   further for casts
   .
   # Recent PE:  Currently therapeutic.
   - Restart coumadin at lower dose 2.5mg daily (as currently on
   antibiotics)
   ICU Care
   Nutrition: NPO, NGT place
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-17**] 08:13 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2186-03-18 08:09:00 Physician Attending Progress Note
Chief Complaint:  seizure, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 55yo man with longstanding neurological history (right temporal
   astrocytoma ~35y ago, multiple recent meningioma resections, XRT and
   GammaKnife treatments, seizure disorder, L. hemiparesis) presents from
   his nursing home with N/V, UTI, high grade fever to 104.8, and seizure.
   24 Hour Events:
   Admitted to [**Hospital Unit Name 1**] yesterday
   R IJ placed for access
   Febrile to 104.9 o/n
   MRI done, prelim read with meningeal enhancement, ?residual meningioma,
   no bleed or CVA
   Loaded with Keppra
   Coumadin held yesterday PM
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2186-3-17**] 09:30 PM
   Vancomycin - [**2186-3-17**] 10:30 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-3-18**] 12:00 AM
   Lorazepam (Ativan) - [**2186-3-18**] 12:15 AM
   Meperidine (Demerol) - [**2186-3-18**] 05:15 AM
   Other medications:
   Keppra 1000 mg [**Hospital1 7**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-18**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 40.5
C (104.9
   Tcurrent: 40.2
C (104.4
   HR: 131 (105 - 144) bpm
   BP: 150/102(113) {124/74(86) - 155/119(113)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.2 kg (admission): 97.3 kg
   CVP: 8 (3 - 9)mmHg
   Total In:
                                                                    350 mL
                                                                  1,668 mL
   PO:
   TF:
   IVF:
                                                                    350 mL
                                                                  1,668 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                  1,030 mL
   Urine:
                                                                    395 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -395 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: somnolent, opening eyes spontaneously but not to command
   Neck: R IJ site c/d/i
   Chest: decreased air movement throughout, no rales or wheezes
   CV: tachy, regular, no M
   Abd: soft, NT/ND + BS
   Extr: cold (on cooling blanket)
   Labs / Radiology
   13.3 g/dL
   227 K/uL
   159 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.7 mEq/L
   18 mg/dL
   109 mEq/L
   142 mEq/L
   40.1 %
   14.1 K/uL
        [image002.jpg]
                             [**2186-3-17**]  09:05 PM
                             [**2186-3-18**]  04:03 AM
   WBC
   14.1
   14.1
   Hct
   41.7
   40.1
   Plt
   216
   227
   Cr
   1.4
   1.4
   TropT
   0.01
   Glucose
   169
   159
   Other labs: PT / PTT / INR:22.8/43.3/2.1, CK / CKMB /
   Troponin-T:71/2/0.01, ALT / AST:23/23, Alk Phos / T Bili:65/0.4, Lactic
   Acid:4.2 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.1 mg/dL
   Lactate: 4.2
   Micro:
   Urine and blood cultures pending
   CXR: low lung volumes, perihilar fullness, mild vascular congestion, R
   IJ in the SVC
   Assessment and Plan
   55yo man with longstanding neurological history (right temporal
   astrocytoma ~35y ago, multiple recent meningioma resections, XRT and
   GammaKnife treatments, seizure disorder, L. hemiparesis) presents from
   his nursing home with N/V, UTI, high grade fever to 104.8, and seizure.
   1. AMS: has a known seizure disorder, new seizure yesterday in the
   context of high grade fever, known meningiomas, previous strokes.  No
   bleed or acute CVA on MRI by prelim read.  Still febrile o/n.  UA
   positive, culture pending.
   -  LP today
   -  will review MRI with radiology: re: Mollart
s triangle stroke
   -  Continue Keppra at increased dose per neuro recs 1000 mg [**Hospital1 7**]
   -  24 hr EEG today per neuro
   -  Continue vanco/cefepime, add empiric tamiflu
   -  f/up cultures, flu swab
   2. PE: 10/[**2185**]. coumadin held for high INR yesterday.  No  bleed on
   MRI.  INR 2. today.
   -  restart coumadin tonight
   3. Sinus tachycardia: likely due to fever, UTI
   - Abx as above
   - Tylenol/[**Last Name (un) 1494**] blanket for fevers
   4. ARF
 baseline creat 0.7-0.8, now 1.4 s/p IVF. +rare eos in urine.
   Unclear precipitant for AIN.  Has a UTI by UA.  FeNA 1.5.
   - continue vanco/cefepime
   - f/up urine cultures
   - renal US to r/out pyelo
   ICU Care
   Nutrition: place NGT today for meds and TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-17**] 08:13 PM
   Prophylaxis:
   DVT: INR therapeutic on coumadin
   Stress ulcer:  H2 blocker
   Communication:  will update wife
   [**Name (NI) 36**] status: Full code
   Disposition : ICU
   Total time spent:  35 min CCT

2186-03-19 06:53:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  Vomiting
   Reason for MICU Transfer:  Acute mental status changes, ?seizure
   24 Hour Events:
 EEG - At [**2186-3-18**] 11:30 AM
   24 hr study
 LUMBAR PUNCTURE - At [**2186-3-18**] 12:10 PM
 ULTRASOUND - At [**2186-3-18**] 12:48 PM
   renal  at bedside
 BLOOD CULTURED - At [**2186-3-18**] 04:20 PM
 FEVER - 104.4
C - [**2186-3-18**] 08:00 AM
   [**3-18**]
   - Blood cx growing GPCs in clusters x 2
   - Final MRI Head showed no significant change
   - Final CT negative for hemorrhage or acute change
   - Pt rigoring several times today, temp rising to 38.8, mottled skin,
   never hypotensive, and always responsive making seizures unlikely. Was
   cultured again and started on standing tylenol. Demerol ordered again
   but pt stopped rigoring before it was given.
   - LP with WBC of 1 and negative gram stain and culture
   - Can probably DC tamiflu and stop precautions now that we have a
   likely source of the fever
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2186-3-18**] 08:56 PM
   Vancomycin - [**2186-3-18**] 10:18 PM
   Cefipime - [**2186-3-19**] 02:00 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2186-3-18**] 06:33 PM
   Famotidine (Pepcid) - [**2186-3-19**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-19**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 40.2
C (104.4
   Tcurrent: 37.5
C (99.5
   HR: 87 (87 - 131) bpm
   BP: 112/70(79) {110/68(79) - 168/102(136)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
    CVP: -2 (-2 - 8)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  6,237 mL
                                                                    183 mL
   PO:
   TF:
   IVF:
                                                                  5,635 mL
                                                                    183 mL
   Blood products:
                                                                    602 mL
   Total out:
                                                                  2,890 mL
                                                                    660 mL
   Urine:
                                                                  2,890 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,347 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   154 K/uL
   12.0 g/dL
   130 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   111 mEq/L
   143 mEq/L
   36.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2186-3-17**]  09:05 PM
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
   WBC
   14.1
   14.1
   9.9
   Hct
   41.7
   40.1
   36.0
   Plt
   [**Telephone/Fax (3) 13311**]
   Cr
   1.4
   1.4
   1.2
   TropT
   0.01
   <0.01
   <0.01
   Glucose
   169
   159
   130
   Other labs: PT / PTT / INR:19.3/42.0/1.8, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:23/23, Alk Phos / T Bili:65/0.4,
   Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: MRI Head [**2186-3-17**]:
   1. Overall there has been no significant change in the appearance of
   brain
   compared with the previous MRI of [**2185-10-24**].
   2. Right petrous apex convexity en plaque meningiomas are again
   identified, unchanged.
   3. Post-radiation changes in the white matter and postoperative changes
   are
   also again noted. Encephalomalacia is seen in the right temporal
   region.
   Although meningeal enhancement is seen in the right temporal region, no
   nodular enhancement is identified.
   Renal U/S [**2186-3-18**]:
   1. Normal echogenicity to the kidneys.
   2. 5-mm nonobstructive calculi in the left kidney. No left-sided
   hydronephrosis.
   3. Mild fullness of the right renal pelvis, but no hydronephrosis. No
   stones
   on the right side.
   CXR AP [**2186-3-18**]:
   Interval placement of a nasogastric tube with tip seen distally in the
   stomach. Cardiac silhouette is within normal limits. Lung bases are
   clear.
   No evidence of pneumoperitoneum.
   CT Head [**2186-3-18**]:
   1. No acute hemorrhage. No midline shift. MR is more sensitive in the
   detection of acute stroke.
   2. Unchanged appearance to right skull base meningioma, areas of
   encephalomalacia and prior craniotomies as enumerated above.
   Microbiology: [**2186-3-17**]  BLOOD CULTURE Blood Culture,
   Routine-PRELIMINARY {GRAM POSITIVE COCCUS(COCCI)}in pairs and clusters
   [**2186-3-17**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {GRAM
   POSITIVE COCCUS(COCCI)}in clusters
   Blood cx from [**2186-3-18**] x 4 with NGTD
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
   55 yo M with PMHx sig. for L cerebellar stroke, astrocytoma, meningioms
   s/p XRT, seizure disorder, and recent PE on coumadin who presented
   initially with low-grade fever, vomiting, tachycardia, found to have a
   UTI, then become greatly febrile with seizure-like activity, now
   unresponsive w/ fevers and rigors overnight.
   .
   # Acute mental status changes:  In the setting of seizures, s/p ativan
   may be post-ictal.  His CT head is w/o evidence of acute bleed and MRI
   head w/o evidence of stroke.  There is area of mild hyperenhancement
   possibly indicative of residual malignancy.  Patient also continues to
   be febrile, with rigors overnight, tachycardia, leukocytosis concerning
   for sepsis.  His urine was remarkable for bacturia/pyuria and cx
   pending.  His CXR is not evident for obvious areas of consolidation or
   infiltrates.  Blood cultures are pending. In patient w/ AMS/fevers,
   must also consider meningitis.
   - F/u final head CT and head MRI read (discuss w/ radiology XRT induced
   necrosis and infarct of Mollaret
s triangle though no evidence of
   infarct on prelim read)
   - 24 hour EEG
   - LP to r/o bacterial/viral meningitis and evaluate cytology for
   malignancy
   - Continue keppra
   - Appreciate neuro recs
   - R/o flu
   .
   # Seizure disorder:  As above.
   - cont keppra
   - 24 hour EEG
   .
   # Sepsis/Fever/Leukocytosis:  Currently hemodynamically stable aside
   from tachycardia.  Likely source is UTI.  UCx, BCx pending.  CXR shows
   no definite infiltrate, though was volume depleted and may blossom.
   High fever is concerning for flu.  No diarrhea to suggest C. diff.
   - follow bcxs, ucx
   - r/o flu
   - LP today
   - Cover for healthcare associated organisms with vanc/cefepime,
   broadening w/ tamiflu empirically
   .
   # Sinus tachycardia:  Likely due to fever, sepsis.  BP remains stable,
   s/p aggressive IVFs.
   - control fever with acetaminophen, cooling blanket as necessary
   - monitor CVP, MAP, UOP
   - IVF boluses prn
   .
   # Acute renal failure:  Baseline Cr is 0.8.  Creatine remains elevated
   despite IVFs. FeNa 1.5 less consistent w/ pre-renal and urine sig for
   rare eos.  Ddx: pyelo (UTI/ w/ wbc casts) vs prerenal (less likely as
   not improving w/ ivfs and FeNa) vs AIN (eos seen on smear) vs ATN
   (though no muddy brown cast seen and no documented episodes of
   hypotension) vs obstruction.
   - monitor I&Os, UOP
   - trend creatinine
   - Renal US
   - renally dose all meds
   - renal consult if cr does not improve to spin urine and evaluate
   further for casts
   .
   # Recent PE:  Currently therapeutic.
   - Restart coumadin at lower dose 2.5mg daily (as currently on
   antibiotics)
   ICU Care
   Nutrition: NPO, NGT place
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-17**] 08:13 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2186-03-19 07:51:00 Physician Attending Progress Note
Chief Complaint:  seizures, bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Blood cultures returned with GPCs
   LP done, neg for infection
   24 hour EEG started
   Renal US done
   Rigors yesterday, s/p IVF boluses
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2186-3-18**] 08:56 PM
   Vancomycin - [**2186-3-18**] 10:18 PM
   Cefipime - [**2186-3-19**] 02:00 AM
   Other ICU medications:
   Meperidine (Demerol) - [**2186-3-18**] 06:33 PM
   Famotidine (Pepcid) - [**2186-3-19**] 12:45 AM
   Other medications:
   Keppra 1gm Q12
   Vanco 1gm Q12
   Bisacodyl
   Famotidine
   ISS
   Cefepime 2gm Q8
   Warfarin 2.5 daily
   Tylenol 1gm Q8
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain
   Flowsheet Data as of  [**2186-3-19**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 40.2
C (104.4
   Tcurrent: 37.5
C (99.5
   HR: 87 (87 - 124) bpm
   BP: 112/70(79) {110/68(79) - 168/94(136)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
   CVP: -2 (-2 - 5)mmHg
   Mixed Venous O2% Sat: 92 - 92
   Total In:
                                                                  6,237 mL
                                                                    189 mL
   PO:
   TF:
   IVF:
                                                                  5,635 mL
                                                                    189 mL
   Blood products:
                                                                    602 mL
   Total out:
                                                                  2,890 mL
                                                                    660 mL
   Urine:
                                                                  2,890 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,347 mL
                                                                   -471 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: awake, answers simple questions, follows commands
   Chest: CTAB
   CV: RRR, no m
   Abd: soft + BS
   Extr: warm, no edema
   Neuro: answers questions, squeezes hands and moves toes to command
   Labs / Radiology
   12.0 g/dL
   154 K/uL
   130 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   111 mEq/L
   143 mEq/L
   36.0 %
   9.9 K/uL
         [image002.jpg]
                             [**2186-3-17**]  09:05 PM
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
   WBC
   14.1
   14.1
   9.9
   Hct
   41.7
   40.1
   36.0
   Plt
   [**Telephone/Fax (3) 13311**]
   Cr
   1.4
   1.4
   1.2
   TropT
   0.01
   <0.01
   <0.01
   Glucose
   169
   159
   130
   Other labs: PT / PTT / INR:19.3/42.0/1.8, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:23/23, Alk Phos / T Bili:65/0.4,
   Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   LP: gluc 89, TP 97, 1 WBC in tubes 1 and 4
   Vanco level: 13
   Lactate: 0.8 (from 4.2)
   7.40/40/60 (recorded as mixed, ?arterial gas)
   Micro:
   Flu swab: neg
   CSF: no polys or microorganisms on GS, cx pending
   Blood cultures 2/12: one set with CNS, one set with GPCs in clusters
   Blood culutures [**3-18**]: NGTD
   Studies:
   Renal US: 5 mm stone in L kidney, no hydro
   CXR: NGT in stomach, R IJ in SVC, clear lungs
   Assessment and Plan
   55yo man with longstanding neurological history (right temporal
   astrocytoma ~35y ago, multiple recent meningioma resections, XRT and
   GammaKnife treatments, seizure disorder, L. hemiparesis) admitted from
   nursing home with N/V, UTI, high grade fever to 104.8, and seizure.
   1. AMS:
   has a known seizure disorder, new seizures here in the context of high
   grade fever, known meningiomas, previous strokes.  Now also with high
   grade bacteremia. No bleed or acute CVA on MRI by prelim read.  Still
   febrile o/n.  UA positive, culture with mixed bacteria.  LP with
   non-infected CSF.  MRI with no acute bleed/stroke.
   -  Continue Keppra at increased dose per neuro recs 1000 mg [**Hospital1 7**]
   -  f/up 24 hr EEG results
   2. Bacteremia:
   4/4 bottles CNS, unclear port of entry, no known hardware or decubs, no
   old lines.
   - Continue vanco until sensis known
   - TTE
   - f/up surveilance cxs
   3. PE:
   10/[**2185**]. coumadin held for high INR yesterday.  No  bleed on MRI.  INR
   1.8 today, coumadin restarted yesterday, got FFP for LP.
   -  Continue coumadin
   -  Add Lovenox until INR > 2
   4. Sinus tachycardia:
   likely due to fever, bacteremia. HRs now in the 80s with fever down and
   s/p IVF.
   - Continue vanco as above
   - Tylenol/[**Last Name (un) 1494**] blanket for fevers
   5. ARF

 baseline creat 0.7-0.8, was up to 1.4, improving with IVF. +rare eos
   in urine.  Unclear precipitant for AIN.  Has a UTI by UA.  FeNA 1.5.
   Renal US w/out hydro.
   - continue to monitor Cr and lytes
   Remainder of plan per resident note.
   ICU Care
   Nutrition: reintroduce dysphagia diet today as more awake
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2186-3-17**] 08:13 PM
   Prophylaxis:
   DVT: on coumadin, adding lovenox as sub-Tx INR
   Stress ulcer: famotidine
   Communication:  will update family
   Code status: Full code
   Disposition : ICU for completion of 24 hour EEG
   Patient is critically ill.
   Total time spent:  35 min CCT

2186-03-20 06:31:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  Vomiting
   Reason for MICU Transfer:  Acute mental status changes, ?seizure
   24 Hour Events:
 BLOOD CULTURED - At [**2186-3-19**] 03:50 PM
 FEVER - 105.1
C - [**2186-3-19**] 05:43 PM
   [**3-19**]
   - still spiking to 104.9 and greater
   - abx broadened to vanc cefepime and naficillin
   - cooling blanket for high temps
   - no read on EEG yet
   - CVP 0, given 1L NS x 2 this am, CVP then 6
   Denies CP, SOB, focal weakness.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2186-3-18**] 08:56 PM
   Cefipime - [**2186-3-19**] 05:44 PM
   Vancomycin - [**2186-3-19**] 08:00 PM
   Nafcillin - [**2186-3-20**] 12:48 AM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2186-3-19**] 03:45 PM
   Enoxaparin (Lovenox) - [**2186-3-19**] 08:15 PM
   Famotidine (Pepcid) - [**2186-3-20**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-20**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 40.6
C (105.1
   Tcurrent: 36.8
C (98.2
   HR: 79 (79 - 129) bpm
   BP: 90/57(65) {90/57(65) - 165/99(113)} mmHg
   RR: 19 (6 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
    CVP: 6 (-2 - 13)mmHg
   Total In:
                                                                  4,279 mL
                                                                    279 mL
   PO:
   TF:
   IVF:
                                                                  4,279 mL
                                                                    279 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                     50 mL
   Urine:
                                                                  4,210 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: Pupils constricted sluggishly reactive, much more alert and
   responsive
   CV: RR no murmurs, CTAB, RIJ c/d/i
   PULM: CTAB anteriorly
   ABD: Soft, NTND, +BS
   EXT: No edema
   NEURO: Opening eyes and alert and interactive.
   Labs / Radiology
   154 K/uL
   12.0 g/dL
   130 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   14 mg/dL
   111 mEq/L
   143 mEq/L
   36.0 %
   9.9 K/uL
        [image002.jpg]
                             [**2186-3-17**]  09:05 PM
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
   WBC
   14.1
   14.1
   9.9
   Hct
   41.7
   40.1
   36.0
   Plt
   [**Telephone/Fax (3) 13311**]
   Cr
   1.4
   1.4
   1.2
   TropT
   0.01
   <0.01
   <0.01
   Glucose
   169
   159
   130
   Other labs: PT / PTT / INR:19.3/42.0/1.8, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:24/22, Alk Phos / T Bili:57/0.6,
   Lactic Acid:0.8 mmol/L, LDH:230 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.1 mg/dL
   Microbiology: [**2186-3-17**]  BLOOD CULTURE Blood Culture,
   Routine-PRELIMINARY {STAPHYLOCOCCUS, COAGULASE NEGATIVE}; Aerobic
   Bottle Gram Stain-FINAL EMERGENCY [**Hospital1 **]
   [**2186-3-17**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY {GRAM
   POSITIVE COCCUS(COCCI)}; Anaerobic Bottle Gram Stain-FINAL; Aerobic
   Bottle Gram Stain-FINAL EMERGENCY [**Hospital1 **]
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**] 12:28 pm CSF;SPINAL FLUID      Source: LP TUBE #3.
      GRAM STAIN (Final [**2186-3-18**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Assessment and Plan
 BACTEREMIA
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
   55 yo M with PMHx sig. for L cerebellar stroke, astrocytoma, meningioms
   s/p XRT, seizure disorder, and recent PE on coumadin who presented
   initially with low-grade fever, vomiting, tachycardia, found to have a
   UTI, then become greatly febrile with seizure-like activity, now
   unresponsive w/ fevers and rigors overnight.
   .
   # Acute mental status changes:  Improving significantly, likely
   secondary to fevers. Possibly related to post-ictal state after
   seizures vs toxic-metabolic in setting of sepsis now that he
s growing
   coag neg staph in blood.  LP, MRI head unrevealing. Flu ruled out.
   Pallatal contractions noted while pt conversing appropriately making
   seizure unlikely cause of this contraction.
   - Contact neuro to obtain report of 24 hour EEG
   - Continue keppra
   - Appreciate neuro recs
   .
   # Anemia: Significant hct drop since admission. Likely dilutional
   however baseline is 40. Ddx includes infection induced
   myelosuppression, drug induced marrow suppression, drug induced
   hemolysis (less likely given nl LDH and TB yesterday). GI bleed
   unlikely given lack of melena or even stools, nonetheless with INR of
   1.8 on lovenox and warfarin remains a concern.
   -Check PM HCT
   -Add on Hapto, TB, LDH
   -Check Retic and RBC smear
   -Guiac all stools
   # Thrombocytopenia: Also significant and new. Just started lovenox
   yesterday. Consider infection induced myelosuppression vs HIT.
   -Continue to monitor
   -DC lovenox
   # Seizure disorder:  As above.
   - cont keppra
   - f/u 24 hour EEG
   .
   # Sepsis/Fever/Leukocytosis:  Currently hemodynamically stable aside
   from tachycardia.  Likely cause is coag negative staph in blood but
   source unclear.  [**Name2 (NI) 13318**], BCx pending.    No diarrhea to suggest C. diff.
   - follow bcxs for speciation
   - Skin exam to r/o decubitus ulcer
   - Agree with adding nafcillin
   - Contact micro [**Name2 (NI) **] for sensitivities
   - TTE
   - Continue vanc at current dose given for coag neg staph only need
   [**11-22**] trough
   - Needs vanc approval
   .
   # Sinus tachycardia:  Likely due to fever, sepsis.  BP remains stable,
   s/p aggressive IVFs.
   - control fever with standing acetaminophen, cooling blanket as
   necessary
   - monitor CVP, MAP, UOP
   - IVF boluses prn, but recommend using LR instead of NS
   .
   # Acute renal failure:  Slightly worse today, likely combination of AIN
   (given urine eos) and prerenal, had been improving with IVF, suggesting
   most likely prerenal etiology. Renal U/S neg for obstruction.
   - monitor I&Os, UOP
   - trend creatinine
   - renally dose all meds
   - will start to bolus with LR given sodium slowly increasing
   .
   # Recent PE:  Currently sub-therapeutic.
   - DC lovenox
   - Hold coumadin for one day
   ICU Care
   Nutrition: NPO, NGT place, recommend starting tube feeds.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-17**] 08:13 PM
   Prophylaxis:
   DVT: coumadin, lovenox
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2186-03-20 08:23:00 Physician Attending Progress Note
Chief Complaint:  SZ, AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Febrile to 105
 re-cultured, cefepime restarted, nafcilin added
   MS improved this AM
   Bolused 3L NS for low CVP
   History obtained from [**Hospital 15**] Medical records
   Allergies: Codeine (Nausea/Vomiting)
   Last dose of Antibiotics:
   Tamiflu - [**2186-3-18**] 08:56 PM
   Vancomycin - [**2186-3-19**] 08:00 PM
   Cefipime - [**2186-3-20**] 06:27 AM
   Nafcillin - [**2186-3-20**] 06:27 AM
   Other ICU medications:
   Meperidine (Demerol) - [**2186-3-19**] 03:45 PM
   Enoxaparin (Lovenox) - [**2186-3-19**] 08:15 PM
   Famotidine (Pepcid) - [**2186-3-20**] 12:47 AM
   Other medications:
   Keppra 1 gm IV Q12
   Vanco 1 gm Q12
   Dulcolax
   Famotidine
   ISS
   Coumadin 2.5 daily
   Lovenox 90 Q12
   Nafcillin
   Cefepime
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-20**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 40.6
C (105.1
   Tcurrent: 36.5
C (97.7
   HR: 76 (76 - 129) bpm
   BP: 94/62(69) {90/57(65) - 165/99(113)} mmHg
   RR: 17 (6 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
   CVP: 0 (-2 - 10)mmHg
   Total In:
                                                                  4,279 mL
                                                                  1,467 mL
   PO:
   TF:
   IVF:
                                                                  4,279 mL
                                                                  1,467 mL
   Blood products:
   Total out:
                                                                  4,210 mL
                                                                    185 mL
   Urine:
                                                                  4,210 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                  1,282 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: awake, dysarthric, answers simple ?s
   Neck: R IJ site c/d/i
   Chest: CTAB
   CV: RRR, no murmurs
   Abd: soft NT/ND + BS
   Extr: no edema
   Labs / Radiology
   11.0 g/dL
   126 K/uL
   107 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.4 mEq/L
   19 mg/dL
   113 mEq/L
   144 mEq/L
   32.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2186-3-17**]  09:05 PM
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
   WBC
   14.1
   14.1
   9.9
   8.3
   Hct
   41.7
   40.1
   36.0
   32.7
   Plt
   [**Telephone/Fax (3) 13337**]26
   Cr
   1.4
   1.4
   1.2
   1.4
   TropT
   0.01
   <0.01
   <0.01
   Glucose
   169
   159
   130
   107
   Other labs: PT / PTT / INR:39.1/71.2/4.1, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:24/22, Alk Phos / T Bili:57/0.6,
   Lactic Acid:0.8 mmol/L, LDH:230 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:1.7 mg/dL
   Vanco trough: 19
   Hapto: 190  Retics: 1.3
   Micro:
   Blood cultures 2/12:  1 set with CNS, 1 set with GPCs in clusters,
   blood cxs neg since then
   Assessment and Plan
   55yo man with longstanding neurological history (right temporal
   astrocytoma ~35y ago, multiple recent meningioma resections, XRT and
   GammaKnife treatments, seizure disorder, L. hemiparesis) admitted from
   nursing home with N/V, UTI, high grade fever to 104.8, and seizure.
   1. Fever: 4/4 bottles CNS, unclear port of entry, no known hardware or
   decubs, no old lines.  Still febrile yesterday to 105.  UA positive,
   culture with mixed bacteria.  LP with non-infected CSF.  Cr  back up,
   precluding contrast pan-CT to look for ?source.
   - Continue vanco/cefepime/nafcillin until sensis known
   - TTE
   - f/up surveilance cxs
   - repeat CXR
   2. AMS: has a known seizure disorder, new seizures here in the context
   of high grade fever, known meningiomas, previous strokes.  Now also
   with high grade bacteremia. No bleed or acute CVA on MRI by prelim
   read.  Still febrile yesterday to 105.  UA positive, culture with mixed
   bacteria.  LP with non-infected CSF.  MRI with no acute bleed/stroke.
   -  Continue Keppra at increased dose per neuro recs 1000 mg [**Hospital1 7**]
   -  f/up 24 hr EEG results
   3. PE:  [**11/2185**], attributed to immobility.  No  bleed on MRI.  INR 4
   today
   - d/c lovenox
   - hold coumadin tonight
   4. Sinus tachycardia:  likely due to fever, bacteremia. HRs now in the
   80s with fever down and s/p IVF.
   - Continue Abx  as above
   - Tylenol/[**Last Name (un) 1494**] blanket for fevers
   5. ARF: baseline creat 0.7-0.8, was up to 1.4, improved with IVF, but
   now back up to 1.4. +rare eos in urine.  Unclear precipitant for AIN.
   Dirty UA but Cx with mixed bacteria.  Renal US w/out hydro.
   - continue to monitor Cr and lytes
   Remainder of plan per Housestaff note.
   ICU Care
   Nutrition: start TFs
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2186-3-17**] 08:13 PM
   Prophylaxis:
   DVT: INR 4.1
   Stress ulcer:  H2 blocker
   Communication:  with patient
   Code status: Full code
   Disposition: ICU for now, will reevaluate in PM
   Total time spent:  35 min CCT

2186-03-21 07:12:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  Vomiting
   Reason for MICU Transfer:  Acute mental status changes, ?seizure
   24 Hour Events:
 MULTI LUMEN - STOP [**2186-3-20**] 06:02 PM
   [**3-20**]
   - CVP 0, got ivfs returned to 6
   - Asked [**Month/Year (2) **] to give sensitivities on Co neg staph and aerococcus
   species grown in blood cx [**2-14**]
   - CXR: Engorged vessels c/w overhydration.  There may be a more focal
   collection of opacification at the right base medially. Although this
   may merely be vascular in origin, the possibility of a developing
   consolidation must be considered in view of the clinical history
   - Neuro: had seizure activity in the afternoon sunday on EEG (spoke
   with Dr. [**Last Name (STitle) 12731**] [**Pager number 13357**]; if questions contact fellow [**Name (NI) 11454**] [**Name (NI) 8134**]
   [**Pager number 13358**])
   - Started tube feeds
   - Repeat hct stable
   - INR 9 -> received 5mg vitamin K po
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Tamiflu - [**2186-3-18**] 08:56 PM
   Vancomycin - [**2186-3-20**] 08:03 PM
   Cefipime - [**2186-3-21**] 06:00 AM
   Nafcillin - [**2186-3-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2186-3-20**] 08:00 AM
   Famotidine (Pepcid) - [**2186-3-20**] 11:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-21**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 67 (59 - 77) bpm
   BP: 132/80(92) {102/63(72) - 144/95(105)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
    CVP: 6 (2 - 329)mmHg
   Total In:
                                                                  4,501 mL
                                                                    712 mL
   PO:
   TF:
                                                                     60 mL
                                                                    142 mL
   IVF:
                                                                  4,441 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                  1,185 mL
   Urine:
                                                                  1,845 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,656 mL
                                                                   -473 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   11.7 g/dL
   104 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.2 mEq/L
   18 mg/dL
   116 mEq/L
   145 mEq/L
   34.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2186-3-17**]  09:05 PM
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
                             [**2186-3-20**]  05:25 PM
                             [**2186-3-21**]  04:50 AM
   WBC
   14.1
   14.1
   9.9
   8.3
   9.5
   9.4
   Hct
   41.7
   40.1
   36.0
   32.7
   31.8
   34.0
   Plt
   [**Telephone/Fax (3) 13337**]26
   129
   140
   Cr
   1.4
   1.4
   1.2
   1.4
   1.2
   TropT
   0.01
   <0.01
   <0.01
   Glucose
   169
   159
   130
   107
   104
   Other labs: PT / PTT / INR:80.3/54.7/9.6, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:24/22, Alk Phos / T Bili:57/1.1,
   Differential-Neuts:71.0 %, Band:11.0 %, Lymph:12.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:0.8 mmol/L, LDH:261 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.2 mg/dL
   Imaging: CXR AP [**2186-3-20**]:
   FINDINGS: In comparison with the study from [**3-17**] and [**3-18**], there is
   little
   change in the appearance of the right IJ catheter and nasogastric
   tube.
   Prominence of engorged vessels is again noted, consistent with
   overhydration.  There may be a more focal collection of opacification
   at the right base medially. Although this may merely be vascular in
   origin, the possibility of a developing consolidation must be
   considered in view of the clinical history.
   Microbiology: Blood Culture, Routine (Final [**2186-3-20**]): AEROCOCCUS
   SPECIES.    IDENTIFIED AS AEROCOCCUS URINAE. ISOLATED FROM ONE SET
   ONLY.
   Anaerobic Bottle Gram Stain (Final [**2186-3-18**]): GRAM POSITIVE COCCI IN
   CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2186-3-18**]): GRAM POSITIVE COCCI. IN
   PAIRS AND CLUSTERS.
   Blood Culture, Routine (Preliminary):
   STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET ONLY.
   Aerobic Bottle Gram Stain (Final [**2186-3-18**]): GRAM POSITIVE COCCI IN
   CLUSTERS.
   [**2186-3-18**]  CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID
   CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY INPATIENT - NGTD
   [**2186-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 BACTEREMIA
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
   55 yo M with PMHx sig. for L cerebellar stroke, astrocytoma, meningioms
   s/p XRT, seizure disorder, and recent PE on coumadin who presented
   initially with low-grade fever, vomiting, tachycardia, found to have a
   UTI, then become greatly febrile with seizure-like activity, now
   unresponsive w/ fevers and rigors overnight.
   .
   # Acute mental status changes:  Worsening this morning. Probably
   related to post-ictal state after seizures vs toxic-metabolic in
   setting of sepsis now that he
s growing coag neg staph in blood.  LP,
   MRI head unrevealing. Flu ruled out. Pallatal contractions noted while
   pt conversing appropriately making seizure unlikely cause of this
   contraction. In setting of INR of 9.6 would consider acute hemorrhage
   and consider a head CT.
   - Contact neuro to obtain report of 24 hour EEG,
   - If evidence of seizure then will d/w neuro re adding second AED
   - If no e/o recent seizure on EEG will obtain CT head
   - Continue keppra
   - Appreciate neuro recs
   .
   # Elevated INR: Coaguloparhy likely secondary to warfarin and
   antibiotic interaction compounded by poor nutrition. DIC highly
   unlikely given stable platelets.
   - Vitamin K 5mg PO ONCE given no signs of bleeding
   - Recheck INR this evening
   - Continue to hold warfarin until INR normalizes with goal 2.0-3.0.
   - Monitor for signs of bleeding and for worsening platelets.
   .
   # Anemia: Stabilized however, significant hct drop since admission.
   Likely dilutional however baseline is 40. Ddx includes infection
   induced myelosuppression, drug induced marrow suppression, drug induced
   hemolysis (less likely given nl LDH and TB yesterday). GI bleed
   unlikely given lack of melena or even stools, nonetheless with
   supratherapeutic INR bleed remains a concern. Hapto, TB, LDH all wnl.
   Retic and RBC smear also wnl supporting dilutional component.
   -Guiac all stools
   # Thrombocytopenia: Stable, although also significant and new. Just
   started lovenox yesterday. Consider infection induced myelosuppression
   vs HIT.
   -Continue to monitor
   -DC lovenox
   # Seizure disorder:  As above.
   - cont keppra
   - f/u 24 hour EEG
   .
   # Sepsis/Fever/Leukocytosis:  Currently hemodynamically stable aside
   from tachycardia.  Likely cause is coag negative staph in blood but
   source unclear.  [**Name2 (NI) 13318**], BCx pending.    No diarrhea to suggest C. diff.
   - follow bcxs for speciation
   - Skin exam to r/o decubitus ulcer
   - Continue nafcillin
   - Contact micro [**Name2 (NI) **] for sensitivities
   - TTE
 call cardiology today
   - Continue vanc at current dose given for coag neg staph only need
   [**11-22**] trough
   - Needs vanc approval
   .
   # Sinus tachycardia:  Likely due to fever, sepsis.  BP remains stable,
   s/p aggressive IVFs.
   - control fever with standing acetaminophen, cooling blanket as
   necessary
   - monitor CVP, MAP, UOP
   - IVF boluses prn, but recommend using LR instead of NS
   .
   # Acute renal failure:  Slightly worse today, likely combination of AIN
   (given urine eos) and prerenal, had been improving with IVF, suggesting
   most likely prerenal etiology. Renal U/S neg for obstruction.
   - monitor I&Os, UOP
   - trend creatinine
   - renally dose all meds
   - will start to bolus with LR given sodium slowly increasing
   .
   # Recent PE:  Currently sub-therapeutic.
   - DC lovenox
   - Hold coumadin for one day
   ICU Care
   Nutrition: NPO, NGT place, recommend starting tube feeds.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2186-3-17**] 08:13 PM
   Prophylaxis:
   DVT: coumadin, lovenox
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2186-03-22 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -We DC'd cefepime this morning
   -ID believes aerococcus is real and this is likely urosepsis. They
   thought coag negative staph was contaminant as only 1 bottle out of 4
   positive. Recommended DC'ing vanc and nafcillin, and starting unasyn
   for a 2 week course.
   -Echo negative for endocarditis
   -CT head no sign of acute hemorrhage, edema, or large infarct. Largely
   unchanged areas of encephalomalacia, post-radiation and surgical
   changes, and meningioma.
   -ABG to make sure not hypercarbic revealed primary respiratory
   alkalosis, possibly central in etiology. However, repeat ABG showed
   this and mild hypoxemia.
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2186-3-21**] 06:00 AM
   Vancomycin - [**2186-3-21**] 08:00 AM
   Nafcillin - [**2186-3-21**] 12:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-22**] 05:14 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-3-21**] 11:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-22**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 82 (65 - 93) bpm
   BP: 146/88(100) {129/79(95) - 167/98(112)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
             Total In:
                                                                  3,119 mL
                                                                    904 mL
   PO:
             TF:
                                                                  1,009 mL
                                                                    473 mL
   IVF:
                                                                  1,695 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                  4,235 mL
                                                                    595 mL
   Urine:
                                                                  4,045 mL
                                                                    595 mL
   NG:
                                                                    190 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,116 mL
                                                                    309 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.51/31/78.[**Numeric Identifier 181**]/24/1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   12.8 g/dL
   146 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.0 mEq/L
   17 mg/dL
   111 mEq/L
   143 mEq/L
   37.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
                             [**2186-3-20**]  05:25 PM
                             [**2186-3-21**]  04:50 AM
                             [**2186-3-21**]  05:05 PM
                             [**2186-3-21**]  07:17 PM
                             [**2186-3-22**]  12:17 AM
                             [**2186-3-22**]  03:54 AM
   WBC
   14.1
   9.9
   8.3
   9.5
   9.4
   11.0
   Hct
   40.1
   36.0
   32.7
   31.8
   34.0
   37.9
   Plt
   227
   154
   126
   129
   140
   172
   Cr
   1.4
   1.2
   1.4
   1.2
   1.2
   1.2
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   Glucose
   159
   130
   107
   104
   116
   130
   166
   146
   Other labs: PT / PTT / INR:15.7/34.0/1.4, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:79/112, Alk Phos / T Bili:110/0.7,
   Differential-Neuts:71.0 %, Band:11.0 %, Lymph:12.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:261 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 COAGULOPATHY
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 BACTEREMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 THROMBOCYTOPENIA, ACUTE
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
   55 yo M with PMHx sig. for L cerebellar stroke, astrocytoma, meningioms
   s/p XRT, seizure disorder, and recent PE on coumadin who presented
   initially with low-grade fever, vomiting, tachycardia, found to have a
   UTI, then become greatly febrile with seizure-like activity, now
   unresponsive w/ fevers and rigors overnight.
   .
   # Aerococcus UTI c/b septicemia
   - treating with unasyn for 2 wk course
   - change foley
   # Acute mental status changes:  Per neuro, EEG not c/w  seizure but not
   normal. Worsening this morning, less responsive. Probably related to
   post-ictal state after seizures vs toxic-metabolic in setting of sepsis
   and bacteremia.  LP, MRI head unrevealing. Flu ruled out. Pallatal
   contractions noted while pt conversing appropriately making seizure
   unlikely cause of this contraction. In setting of INR of 9.6 would
   consider acute hemorrhage and consider a head CT.
   - Contact neuro to obtain report of 24 hour EEG,
   - If evidence of seizure then will d/w neuro re adding second AED
   - If no e/o recent seizure on EEG will obtain CT head
   - Continue keppra
   - Appreciate neuro recs
   .
   # HistoryElevated INR: Coaguloparhy likely secondary to warfarin and
   antibiotic interaction compounded by poor nutrition. DIC highly
   unlikely given stable platelets.
   - Vitamin K 5mg PO ONCE given no signs of bleeding
   - Recheck INR this evening
   - Continue to hold warfarin until INR normalizes with goal 2.0-3.0.
   - Monitor for signs of bleeding and for worsening platelets.
   .
   # Anemia: Stabilized however, significant hct drop since admission.
   Likely dilutional however baseline is 40. Ddx includes infection
   induced myelosuppression, drug induced marrow suppression, drug induced
   hemolysis (less likely given nl LDH and TB yesterday). GI bleed
   unlikely given lack of melena or even stools, nonetheless with
   supratherapeutic INR bleed remains a concern. Hapto, TB, LDH all wnl.
   Retic and RBC smear also wnl supporting dilutional component.
   -Guiac all stools
   # Thrombocytopenia: Stable, although also significant and new. Just
   started lovenox yesterday. Consider infection induced myelosuppression
   vs HIT.
   -Continue to monitor
   -Continue to hold lovenox
   # Seizure disorder:  As above.
   - cont keppra
   - f/u 24 hour EEG
   .
   # Sepsis/Fever/Leukocytosis:  Auerococcus urinae is likely a pathogen
   from his UTI that degenerated into urosepsis. Currently hemodynamically
   stable.
   - follow bcxs for speciation
   - Continue nafcillin
   - Continue vanc at current dose given for coag neg staph only need
   [**11-22**] trough
   - Contact micro [**Name2 (NI) **] for sensitivities
   - TTE today to eval for infectious endocarditis
   .
   # Sinus tachycardia:  Resolved.
   .
   # Acute renal failure:  Improved today, likely combination of AIN
   (given urine eos) and prerenal, had been improving with IVF, suggesting
   most likely prerenal etiology. Renal U/S neg for obstruction.
   - monitor I&Os, UOP
   - trend creatinine
   - renally dose all meds
   .
   # Recent PE:  Currently supratherapeutic-therapeutic with INR of 9.6.
   - Vitamin K per above
   - DC lovenox
   - Hold coumadin again
   ICU Care
   Nutrition:
   Peptamen 1.5 ([**2-6**]) - [**2186-3-22**] 06:54 AM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-3-20**] 05:22 PM
   20 Gauge - [**2186-3-20**] 05:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-03-22 12:58:00 Physician Attending Progress Note
Chief Complaint: sz, AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  55M complicated neuro hx (right temporal astrocytoma ~35y ago,
   multiple recent meningioma resections, XRT and GammaKnife treatments,
   seizure disorder, L. hemiparesis) admitted from NH with N/V, UTI, fever
   to 104.8, and seizure.
   24 Hour Events:
   antibx tailored to unasyn
   remains on continuous EEG monitoring
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2186-3-21**] 06:00 AM
   Vancomycin - [**2186-3-21**] 08:00 AM
   Nafcillin - [**2186-3-21**] 12:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-22**] 05:14 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-3-22**] 12:13 PM
   Other medications: reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-22**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 87 (70 - 93) bpm
   BP: 143/94(106) {129/79(95) - 167/99(112)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
             Total In:
                                                                  3,119 mL
                                                                  1,943 mL
   PO:
             TF:
                                                                  1,009 mL
                                                                    771 mL
   IVF:
                                                                  1,695 mL
                                                                    891 mL
   Blood products:
   Total out:
                                                                  4,235 mL
                                                                  1,185 mL
   Urine:
                                                                  4,045 mL
                                                                    965 mL
   NG:
                                                                    190 mL
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,116 mL
                                                                    758 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.51/31/78.[**Numeric Identifier 181**]/24/1
   Physical Examination
   More awake, remains unable to follow commands or verbalize
   CTA
   RR
   + BS, soft, NT
   Trace peripheral edema
   Labs / Radiology
   12.8 g/dL
   172 K/uL
   146 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.0 mEq/L
   17 mg/dL
   111 mEq/L
   143 mEq/L
   37.9 %
   11.0 K/uL
        [image002.jpg]
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
                             [**2186-3-20**]  05:25 PM
                             [**2186-3-21**]  04:50 AM
                             [**2186-3-21**]  05:05 PM
                             [**2186-3-21**]  07:17 PM
                             [**2186-3-22**]  12:17 AM
                             [**2186-3-22**]  03:54 AM
   WBC
   14.1
   9.9
   8.3
   9.5
   9.4
   11.0
   Hct
   40.1
   36.0
   32.7
   31.8
   34.0
   37.9
   Plt
   227
   154
   126
   129
   140
   172
   Cr
   1.4
   1.2
   1.4
   1.2
   1.2
   1.2
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   Glucose
   159
   130
   107
   104
   116
   130
   166
   146
   Other labs: PT / PTT / INR:15.7/34.0/1.4, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:79/112, Alk Phos / T Bili:110/0.7,
   Differential-Neuts:71.0 %, Band:11.0 %, Lymph:12.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:261 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Imaging: head CT without new bleed/acute process
   Microbiology: no new growth
   Assessment and Plan
   Active issues remain--
   # UtI
suspect that infection/UTI contributed to presentation/AMS/[**Last Name (un) **]
   fevers and sz.  Remains AF on appropriate therapy. Cx data w/ CNS
   (likely contaminant) and arococcus.
   --continue unasyn
   - f/up surveilance cxs
   # AMS: mulitfactorial
post ictal from szs, high fevers/infection as
   above, in pt with known meningiomas, prior strokes.  LP with
   non-infected CSF, No bleed or acute CVA by MRI on presentation.
   -- more awake today but not at baseline, suspect this will slowly clear
   as his infection is treated.
   -- we continue continuous eeg monitoring
   -  Continue Keppra
   -- Serial neuro exams
   # PE:  [**11/2185**], attributed to immobility.
   INR was supratherapeutic, now sub-therapeutic--will restart  Coumadin,
   monitoring closely with antbx and bridge with lovenox
   # Thrombocytopenia
improving, likely from infection
   # ARF: improving, good UOP
   - follow Cr, lytes
   Remainder of plan per Housestaff note.
   ICU Care
   Nutrition:
   Peptamen 1.5 ([**2-6**]) - [**2186-3-22**] 06:54 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2186-3-20**] 07:00 AM
   18 Gauge - [**2186-3-20**] 05:22 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)/lovenox bridge
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : consider transfer to neuro floor
   Total time spent: 45 minutes

2186-03-23 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - foley exchanged for condom cath
   - INR 1.6 so restarted coumadin and also started lovenox
   - wife [**Name (NI) **] came to see patient, concerned about mental status
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2186-3-21**] 06:00 AM
   Vancomycin - [**2186-3-21**] 08:00 AM
   Nafcillin - [**2186-3-21**] 12:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-3-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-23**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 90 (82 - 99) bpm
   BP: 166/96(112) {131/78(92) - 166/110(118)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
             Total In:
                                                                  3,243 mL
                                                                    815 mL
   PO:
             TF:
                                                                  1,449 mL
                                                                    437 mL
   IVF:
                                                                  1,434 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                  1,475 mL
   Urine:
                                                                  1,755 mL
                                                                  1,475 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                  1,268 mL
                                                                   -660 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   172 K/uL
   12.8 g/dL
   146 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.6 mEq/L
   17 mg/dL
   111 mEq/L
   143 mEq/L
   37.9 %
   11.0 K/uL
        [image002.jpg]
   EEG [**3-22**]:
   This telemetry continued to show an encephalopathic
   background and extremely frequent epileptiform sharp wave discharges in
   the right anterior quadrant. Occasionally, they became more rhythmic,
   but just for a few seconds at a time, not generally sufficient for a
   diagnosis of ongoing nonconvulsive seizures. At the time of the
   pushbutton activation, there were much more frequent discharges, and
   they were somewhat rhythmic but still not as much so on the recordings
   of three and four days earlier.
   CT Head [**3-21**]:
   1. No acute intracranial hemorrhage or large acute infarct.
   2. Multiple areas of infarct/surgical/radiation change.
   3. Right petrous apex meningioma.
   CSF:
   GRAM STAIN (Final [**2186-3-18**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Final [**2186-3-21**]):    NO GROWTH.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   Blood Cx [**3-17**]:
   Blood Culture, Routine (Final [**2186-3-23**]):
      AEROCOCCUS SPECIES.    IDENTIFIED AS AEROCOCCUS URINAE.
         ISOLATED FROM ONE SET ONLY.
         Penicillin E-TEST REQUESTED BY DR. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 13418**] ON [**2186-3-21**].
         Penicillin MIC=0.47MCG/ML.
         THERE ARE NO CLSI GUIDELINES AND INTERPRETATIONS EXISTS FOR
         PERFORMING SENSITIVITIES ON AEROCOCCUS SPECIES. SENSITIVITIES
         PERFORMED USING PENICILLIN ETEST METHOD. .
   Anaerobic Bottle Gram Stain (Final [**2186-3-18**]):
      GRAM POSITIVE COCCI IN CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2186-3-18**]):
      GRAM POSITIVE COCCI.
         IN PAIRS AND CLUSTERS.
                             [**2186-3-18**]  04:03 AM
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
                             [**2186-3-20**]  05:25 PM
                             [**2186-3-21**]  04:50 AM
                             [**2186-3-21**]  05:05 PM
                             [**2186-3-21**]  07:17 PM
                             [**2186-3-22**]  12:17 AM
                             [**2186-3-22**]  03:54 AM
   WBC
   14.1
   9.9
   8.3
   9.5
   9.4
   11.0
   Hct
   40.1
   36.0
   32.7
   31.8
   34.0
   37.9
   Plt
   227
   154
   126
   129
   140
   172
   Cr
   1.4
   1.2
   1.4
   1.2
   1.2
   1.2
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   Glucose
   159
   130
   107
   104
   116
   130
   166
   146
   Other labs: PT / PTT / INR:15.7/34.0/1.4, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:79/112, Alk Phos / T Bili:110/0.7,
   Differential-Neuts:71.0 %, Band:11.0 %, Lymph:12.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:261 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 COAGULOPATHY
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 BACTEREMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 THROMBOCYTOPENIA, ACUTE
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
   55 yo M with PMHx sig. for L cerebellar stroke, astrocytoma, meningioms
   s/p XRT, seizure disorder, and recent PE on coumadin who presented
   initially with low-grade fever, vomiting, tachycardia, found to have a
   UTI and transferred to the [**Hospital Unit Name 1**] for fevers and seizure activity.
   .
   # Aerococcus UTI c/b septicemia: Improving as fevers have been trending
   down. No evidence of IE by TTE and clinical exam. Repeat blood cx have
   shown no new growth since [**3-17**].
   - treating with unasyn for 2 wk course (started [**3-21**] -> end [**4-4**])
   - F/u surveillance blood cx (no growth to date).
   # Acute mental status changes:  EEG w/ abnormal activity though not c/w
   ongoing seizures.  His AMS is felt to be secondary to prolonged
   post-ictal state in the setting of infection.  His LP, MRI, and repeat
   head CT have been unrevealing for acute processes.  At baseline pt w/
   h/o astrocytoma and menigioma and CVA.
   - Continue EEG
   - Continue keppra 1g [**Hospital1 **]
   - Appreciate neuro recs
   - Ativan prn seizures
   # Thrombocytopenia: Can be secondary to medications.  Have just
   restarted lovenox.
   - cont to monitor
   - consider HIT abs and stopping lovenox if cont to trend down
   # Seizure disorder:  As above.
   - cont keppra
   - cont EEG
   .
   # Recent PE:
   - Coumadin 2.5mg daily
   - Lovenox bridge
   - Cont to monitor INR (goal [**3-8**])
   ICU Care
   Nutrition:
   Peptamen 1.5 ([**2-6**]) - [**2186-3-22**] 11:15 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-20**] 07:00 AM
   18 Gauge - [**2186-3-20**] 05:22 PM
   Prophylaxis:
   DVT: coumadin, lovenox
   Stress ulcer: H2blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical Exam:
   Pt alert, opens eyes spontaneously, protrudes tongue on command.
   Rhonchorous BS. Tachy. Abdomen soft Nt/Nd.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 13110**], MD
   on:[**2186-3-23**] 12:55 ------

2186-03-23 12:18:00 Physician Attending Progress Note
Chief Complaint: AMS, sz
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  55M complicated neuro hx (right temporal astrocytoma ~35y ago,
   multiple recent meningioma resections, XRT and GammaKnife treatments,
   seizure disorder, L. hemiparesis) admitted from NH with high fevers,
   AMS, sz and UTI, continues to have altered / waxing and [**Doctor Last Name 533**] level of
   alertness.
   24 Hour Events:
   coumadin restarted
   remains AF
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2186-3-21**] 06:00 AM
   Vancomycin - [**2186-3-21**] 08:00 AM
   Nafcillin - [**2186-3-21**] 12:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-23**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2186-3-23**] 12:00 AM
   Enoxaparin (Lovenox) - [**2186-3-23**] 09:00 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-23**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 83 (79 - 99) bpm
   BP: 135/78(92) {131/78(92) - 166/110(118)} mmHg
   RR: 15 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
             Total In:
                                                                  3,243 mL
                                                                  1,042 mL
   PO:
             TF:
                                                                  1,449 mL
                                                                    455 mL
   IVF:
                                                                  1,434 mL
                                                                    497 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                  1,725 mL
   Urine:
                                                                  1,755 mL
                                                                  1,725 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                  1,268 mL
                                                                   -683 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   More awake, tracks, but unable to follow commands
   Coarse
   RR, no m
   + BS, soft, NT
   Warm ext
   Labs / Radiology
   12.3 g/dL
   108 K/uL
   137 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   36.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2186-3-18**]  07:42 PM
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
                             [**2186-3-20**]  05:25 PM
                             [**2186-3-21**]  04:50 AM
                             [**2186-3-21**]  05:05 PM
                             [**2186-3-21**]  07:17 PM
                             [**2186-3-22**]  12:17 AM
                             [**2186-3-22**]  03:54 AM
                             [**2186-3-23**]  05:44 AM
   WBC
   9.9
   8.3
   9.5
   9.4
   11.0
   9.4
   Hct
   36.0
   32.7
   31.8
   34.0
   37.9
   36.4
   Plt
   154
   126
   129
   140
   172
   108
   Cr
   1.2
   1.4
   1.2
   1.2
   1.2
   1.2
   TropT
   <0.01
   TCO2
   23
   26
   Glucose
   130
   107
   104
   116
   130
   166
   146
   137
   Other labs: PT / PTT / INR:12.1/33.2/1.0, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:74/62, Alk Phos / T Bili:105/0.5,
   Differential-Neuts:71.0 %, Band:11.0 %, Lymph:12.0 %, Mono:2.0 %,
   Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:312 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Imaging: eeg without epileptiform activity
   Assessment and Plan
   # AMS: this is mulitfactorial [**3-7**] post ictal state from szs, high
   fevers/infection, in pt with known meningiomas/prior strokes.  LP with
   non-infected CSF, No bleed or acute CVA by MRI on presentation. No
   evidence of CO2 retension. His mental status and level of alertness
   continue to wax and wane and suspect a toxic/metabolic delirium. His MS
   overall is slowly improving, but he remains far off his baseline
   -- we are following continuous eeg
   -  Continue Keppra
   -- Serial neuro exams
   --Given his slow improvement, despite resolution in fevers, HD
   stability and lack of leukocytosis, will have low threshold for
   reassessing for nosocomial infection.  Will check LFTs, repeat CXR and
   Ucx today.
   # Aerococcus uti / bacteremia
   He remains AF without leukocytosis, surveilance cxs have been neg
   --we continue unasyn course through [**3-7**]
   # PE:  [**11/2185**], attributed to immobility.
   Coumadin, restarted, monitoring closely with antbx
   # Thrombocytopenia
improved, now dropping--? med effect (vanco,
   lovenox)
    will follow closely
   # Secretions
O2 sat remains stable on RA but with increased secretions.
   Will check CXR. Aspiration and sz precautions
   Remainder of plan per housestaff note.
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-20**] 07:00 AM
   18 Gauge - [**2186-3-20**] 05:22 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Will  remain in ICU given nursing requirements
   Total time spent: 40 minutes

2186-03-24 07:11:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint:  Vomiting
   Reason for MICU Transfer:  Acute mental status changes, ?seizure
   24 Hour Events:
   [**3-23**]
   - Neuro note: Pt w/ + encephalopathy and in post-ictal; would not add
   second [**Doctor Last Name **] as could worsen mental status and impair breathing.
   - EEG reread: occasional R temporal spikes, no seizures. Neuro wanted a
   nuclear study (interictal spec) to see if patient was really having
   seizures by radionucleotide uptake.
   - Patient continued to have secretions that nurses were suctioning
   frequently.  We got a CXR that overall looked better:
   1. Right basilar opacification has improved since [**2186-3-20**].
   2. Mild vascular congestion improved since [**2186-3-20**].
   3. Retrocardiac opacity and left lower lobe atelectasis is unchanged.
   - Urine grew AEROCOCCUS from urine cx of [**3-17**]! (Final report at 2/18)
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2186-3-21**] 08:00 AM
   Nafcillin - [**2186-3-21**] 12:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-24**] 05:38 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2186-3-23**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-24**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 79 (79 - 95) bpm
   BP: 161/89(106) {135/78(92) - 164/99(112)} mmHg
   RR: 15 (10 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 96.2 kg (admission): 97.3 kg
             Total In:
                                                                  2,613 mL
                                                                    755 mL
   PO:
             TF:
                                                                  1,356 mL
                                                                    433 mL
   IVF:
                                                                    817 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    350 mL
   Urine:
                                                                  3,075 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -462 mL
                                                                    405 mL
   Respiratory support
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   381 K/uL
   11.9 g/dL
   134 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.1 mEq/L
   18 mg/dL
   110 mEq/L
   144 mEq/L
   34.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
                             [**2186-3-20**]  05:25 PM
                             [**2186-3-21**]  04:50 AM
                             [**2186-3-21**]  05:05 PM
                             [**2186-3-21**]  07:17 PM
                             [**2186-3-22**]  12:17 AM
                             [**2186-3-22**]  03:54 AM
                             [**2186-3-23**]  05:44 AM
                             [**2186-3-24**]  03:24 AM
   WBC
   9.9
   8.3
   9.5
   9.4
   11.0
   9.4
   9.8
   Hct
   36.0
   32.7
   31.8
   34.0
   37.9
   36.4
   34.9
   Plt
   154
   126
   129
   140
   172
   108
   381
   Cr
   1.2
   1.4
   1.2
   1.2
   1.2
   1.2
   1.2
   TCO2
   23
   26
   Glucose
   130
   107
   104
   116
   130
   166
   146
   137
   134
   Other labs: PT / PTT / INR:12.2/37.9/1.0, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:58/35, Alk Phos / T Bili:112/0.4,
   Differential-Neuts:71.9 %, Band:11.0 %, Lymph:18.2 %, Mono:6.1 %,
   Eos:3.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:313 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR AP [**2186-3-23**]:
   IMPRESSION:
   1. Right basilar opacification has improved since [**2186-3-20**].
   2. Mild vascular congestion improved since [**2186-3-20**].
   3. Retrocardiac opacity and left lower lobe atelectasis is unchanged.
   Microbiology: [**2186-3-17**]  URINE URINE CULTURE-FINAL {AEROCOCCUS
   VIRIDANS, AEROCOCCUS SPECIES} EMERGENCY [**Hospital1 **]
   [**2186-3-22**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-21**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-20**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-19**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2186-3-18**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), OTHER
 COAGULOPATHY
 PULMONARY EMBOLISM (PE), ACUTE
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, OTHER
 BACTEREMIA
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 THROMBOCYTOPENIA, ACUTE
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 TACHYCARDIA, OTHER
   55 yo M with PMHx sig. for L cerebellar stroke, astrocytoma, meningioms
   s/p XRT, seizure disorder, and recent PE on coumadin who presented
   initially with low-grade fever, vomiting, tachycardia, found to have a
   UTI and transferred to the [**Hospital Unit Name 1**] for fevers and seizure activity.
   .
   # Aerococcus UTI c/b septicemia: Improving as fevers have been trending
   down but still with low grade temps. No evidence of IE by TTE and
   clinical exam. Repeat blood cx have shown no new growth since [**3-17**].
   CXR unremarkable.
   - Repeat U/A and culture give low grade temps
   - treating with unasyn for 2 wk course (started [**3-21**] -> end [**4-4**])
   - F/u surveillance blood cx (no growth to date).
   # Acute mental status changes:  EEG w/ abnormal activity though not c/w
   ongoing seizures.  His AMS is felt to be secondary to prolonged
   post-ictal state in the setting of infection.  His LP, MRI, and repeat
   head CT have been unrevealing for acute processes.  At baseline pt w/
   h/o astrocytoma and menigioma and CVA.
   - [**Hospital 13459**] CLINIC PROTOCOL (perfusion study to definitively rule
   out seizures.
   - Continue EEG
   - Continue keppra 1g [**Hospital1 **]
   - Appreciate neuro recs
   - Ativan prn seizures
   # Thrombocytopenia: Improving significantly. Can be secondary to
   medications.  Have just restarted lovenox.
   - cont to monitor
   - consider HIT abs and stopping lovenox if cont to trend down
   # Seizure disorder:  As above.
   - cont keppra
   - cont EEG
   .
   # Recent PE:
   - Coumadin 2.5mg daily
   - Lovenox bridge
   - Cont to monitor INR (goal [**3-8**])
   ICU Care
   Nutrition:
   Peptamen 1.5 ([**2-6**]) - [**2186-3-22**] 11:15 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-20**] 07:00 AM
   18 Gauge - [**2186-3-20**] 05:22 PM
   Prophylaxis:
   DVT: coumadin, lovenox
   Stress ulcer: H2blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2186-03-24 12:42:00 Physician Attending Progress Note
Chief Complaint: AMS, sz, fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  55M complicated neuro hx (right temporal astrocytoma ~35y ago,
   multiple recent meningioma resections, XRT and GammaKnife treatments,
   seizure disorder, L. hemiparesis) admitted from NH with high fevers,
   AMS, sz and UTI, continues to have altered / waxing and [**Doctor Last Name 533**] level of
   alertness.
   24 Hour Events:
   neuro input appreciated--w/o sustained sz activity seen on eeg
   urine cx reassessed
 + aerococcus
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Nafcillin - [**2186-3-21**] 12:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2186-3-24**] 12:03 PM
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **]-- reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-3-24**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**88**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 86 (79 - 95) bpm
   BP: 168/95(115) {144/82(97) - 168/99(115)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.2 kg (admission): 97.3 kg
             Total In:
                                                                  2,613 mL
                                                                  1,370 mL
   PO:
             TF:
                                                                  1,356 mL
                                                                    746 mL
   IVF:
                                                                    817 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  3,075 mL
                                                                    675 mL
   Urine:
                                                                  3,075 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -462 mL
                                                                    695 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   More alert, follows some commands, tracks
   CTA, scant rhonchi
   RR, no m
   + BS, NT, soft
   Warm ext
   Labs / Radiology
   11.9 g/dL
   381 K/uL
   134 mg/dL
   1.2 mg/dL
   24 mEq/L
   4.1 mEq/L
   18 mg/dL
   110 mEq/L
   144 mEq/L
   34.9 %
   9.8 K/uL
        [image002.jpg]
                             [**2186-3-19**]  04:46 AM
                             [**2186-3-20**]  06:32 AM
                             [**2186-3-20**]  05:25 PM
                             [**2186-3-21**]  04:50 AM
                             [**2186-3-21**]  05:05 PM
                             [**2186-3-21**]  07:17 PM
                             [**2186-3-22**]  12:17 AM
                             [**2186-3-22**]  03:54 AM
                             [**2186-3-23**]  05:44 AM
                             [**2186-3-24**]  03:24 AM
   WBC
   9.9
   8.3
   9.5
   9.4
   11.0
   9.4
   9.8
   Hct
   36.0
   32.7
   31.8
   34.0
   37.9
   36.4
   34.9
   Plt
   154
   126
   129
   140
   172
   108
   381
   Cr
   1.2
   1.4
   1.2
   1.2
   1.2
   1.2
   1.2
   TCO2
   23
   26
   Glucose
   130
   107
   104
   116
   130
   166
   146
   137
   134
   Other labs: PT / PTT / INR:12.2/37.9/1.0, CK / CKMB /
   Troponin-T:84/2/<0.01, ALT / AST:58/35, Alk Phos / T Bili:112/0.4,
   Differential-Neuts:71.9 %, Band:11.0 %, Lymph:18.2 %, Mono:6.1 %,
   Eos:3.2 %, Lactic Acid:1.3 mmol/L, Albumin:2.5 g/dL, LDH:313 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   All pending cx
s neg/ngtd
   Assessment and Plan
   # AMS:
   --His mental status and level of alertness continue to wax and wane,
   overall slowly improving.  Suspect a toxic/metabolic delirium and
   prolonged post-ictal state [**3-7**] sz and  infection in pt with significant
   underlying CNS hx. There is no evidence of sustained sz activity on
   continuous eeg.
   -- will obtain radionucleotide brain perfusion study / cont EEG
   monitoring
   -  Continue Keppra
   -- Serial neuro exams
   --we have been pursuing a vigilant infection assessment given his MS
   and low grade temp-- without evidence of obvious new infection (clear
   cxr, O2 sats 100% RA/2L)
   --Will recheck u/a and f/u pending cxs
   # Secretions
O2 sat remains stable on RAand no focal inf on CXR.
   Continue pulm toilet/sx, Aspiration and sz precautions
   # Aerococcus uti / bacteremia--surveilance cxs have been neg
   --we continue unasyn course through [**4-4**]
   # PE:
   Coumadin restarted, with lovenox bridge, following INR
   Remainder of plan per housestaff note.
   ICU Care
   Nutrition:
   Peptamen 1.5 ([**2-6**]) - [**2186-3-24**] 09:17 AM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-20**] 07:00 AM
   18 Gauge - [**2186-3-20**] 05:22 PM
   Prophylaxis:
   DVT: coumadin, lovenox bridge
   Stress ulcer:  H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : possible late call out to floor service
   Total time spent: 50